US08633182B2
3-(4-Bromo-3,5-dimethyl-phenyl)-1H-tetrazole
4-Bromo-3,5-dimethyl benzonitrile (3.0 g, 14.3 mmol), sodium azide (2.32 g, 35.7 mmol) and ammonium chloride (2.3 g, 42.84 mmol) are suspended in dry N,N-dimethylformamide and heated at 140° C. for 7 hours. The mixture is allowed to cool to room temperature, diluted with water and the precipitated solid collected by filtration, washed with water and dried to give the title compound (yield 1.74 g). The mother liquor was saturated with sodium chloride and repeatedly extracted with ethyl acetate. The organic extracts were combined and the solvent removed to give a second crop of title compound (yield 1.39 g, total yield 3.13 g).

reactant | 4-Bromo-3,5-dimethyl benzonitrile | 14.3 mmol, 3.0 g | BrC1=C(C=C(C#N)C=C1C)C | C9H8BrN
reactant | sodium azide | 35.7 mmol, 2.32 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 42.84 mmol, 2.3 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(4-Bromo-3,5-dimethyl-phenyl)-1H-tetrazole | yield 1.74 g | BrC1=C(C=C(C=C1C)N1NNC=N1)C | C9H11BrN4
